US08168637B2
Step A. 3-(Trifluoromethyl)-1,2,4-triazolo[4,3-a]pyrazine
A mixture of 2-hydrazinopyrazine (820 mg, 7.45 mmol), prepared from 2-chloropyrazine and hydrazine using a procedure analogous to that described in the literature (P. J. Nelson and K. T. Potts, J. Org. Chem. 1962, 27, 3243, except that the crude product was extracted into 10% methanol/dichloromethane and filtered, and the filtrate was concentrated and purified by flash chromatography on silica gel, eluting with 100% ethyl acetate followed by 10% methanol in dichloromethane), TFA (2.55 g, 22.4 mmol), and polyphosphoric acid (10 mL) was heated to 140° C. with stirring for 18 h. The solution was added to ice and neutralized by the addition of ammonium hydroxide. The aqueous solution was extracted with ethyl acetate (3×), washed with brine, and dried over anhydrous magnesium sulfate. Concentration followed by flash chromatography (silica gel, 1:1 hexane:ethyl acetate, then 100% ethyl acetate) afforded the title compound as a solid (861 mg). 1H NMR (500 MHz, CDCl3) δ 8.17˜8.20 (m, 2H), 9.54 (s, 1H). LC/MS (M+1) 189.

reactant | 2-hydrazinopyrazine | 7.45 mmol, 820 mg | N(N)C1=NC=CN=C1 | C4H6N4
reactant | 2-chloropyrazine | ClC1=NC=CN=C1 | C4H3ClN2
reactant | hydrazine | NN | H4N2
reactant | TFA | 22.4 mmol, 2.55 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 3-(Trifluoromethyl)-1,2,4-triazolo[4,3-a]pyrazine | 861 mg | FC(C1=NN=C2N1C=CN=C2)(F)F | C6H3F3N4
